US06977263B2
D. 4-(3-Aminomethyl-phenyl)-1-tert-butoxycarbonyl-piperidine-4-carbonitrile
To a mixture of 0.31 g (1 mmole) of 4-(3-cyanophenyl)-1-tert-butoxycarbonyl-piperidine-4-carbonitrile in 30 ml of absolute ethanol was added 0.08 ml (1 mmole) of conc. hydrochloric acid followed by 30 mg of 5% Pd/C. The mixture was agitated in a Parr shaker for 3 hours at 30 lbs. of pressure of hydrogen. The mixture was filtered through celite and the filtrate was evaporated. The residue was treated with ether and was stirred for 30 minutes and was filtered. The filter cake was treated with aqueous sodium carbonate and was extracted with dichloromethane to give 0.2 g of product: 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.38-1.60(m, 9H), 1.88-2.18(m, 4H), 3.05-3.30(m, 4H), 3.79-4.0(m, 2H), 7.22-7.85(m, 4H); MS (ESI) m/e 316 (M+H)+.

reactant | 4-(3-cyanophenyl)-1-tert-butoxycarbonyl-piperidine-4-carbonitrile | 1 mmole, 0.31 g | C(#N)C=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C18H21N3O2
reactant | hydrochloric acid | 1 mmole, 0.08 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 4-(3-Aminomethyl-phenyl)-1-tert-butoxycarbonyl-piperidine-4-carbonitrile | 0.2 g | NCC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C18H25N3O2
